US04507315
4-Chlorobenzenesulphonyl chloride (1.56 g) was added in portions over 2 minutes to a solution of 2-amino-N-(3-imidazol-1-ylpropyl)benzamide (1.8 g) in water (50 ml) at 80° C. on a steam bath. The mixture was stirred at 80°-90° C. for 3 hours, cooled to room temperature and brought to pH 7 with saturated aqueous sodium bicarbonate solution. The crude product which had precipitated was extracted into dichloromethane (2×100 ml); the resulting solution was dried over magnesium sulphate and evaporated to give a solid. The solid was recrystallised from ethanol to give 2-(4-chlorobenzenesulphonamido)-N-(3-imidazol-1-ylpropyl)benzamide (1.4 g), in the form of a white solid, m.p. 174°-176° C.

reactant | 4-Chlorobenzenesulphonyl chloride | 1.56 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | 2-amino-N-(3-imidazol-1-ylpropyl)benzamide | 1.8 g | NC1=C(C(=O)NCCCN2C=NC=C2)C=CC=C1 | C13H16N4O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 50 ml | O | H2O
product | 2-(4-chlorobenzenesulphonamido)-N-(3-imidazol-1-ylpropyl)benzamide | 1.4 g | ClC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)NCCCN2C=NC=C2)C=CC=C1 | C19H19ClN4O3S
